US04826532
To a solution of 240 g of t-butyl isobutyrylacetate in 500 mL of methanol was passed 70 g of ammonia in 2 hours, maintaining the temperature at below 25° C. The resulting solution was stirred at room temperature for 18 hours, after which methanol was removed in vacuo. Methylene chloride was added and the suspension was filtered. The filtrate was concentrated on a rotary evaporator to give 180 g of t-butyl 3-amino-4-methyl-2-pentenoate as an oil.

reactant | t-butyl isobutyrylacetate | 240 g | C(C(C)C)(=O)CC(=O)OC(C)(C)C | C10H18O3
reactant | ammonia | 70 g | N | H3N
solvent | methanol | 500 mL | CO | CH4O
product | t-butyl 3-amino-4-methyl-2-pentenoate | 180 g | NC(=CC(=O)OC(C)(C)C)C(C)C | C10H19NO2
